US07151070B2
Preparation of 2,2′-Bis-(methoxymethoxy)bibenzene
To a 250 mL of three-necked bottle was added NaH (content 50%, 3.5 g, 72 mmol), anhydrous THF (60 mL) and anhydrous DMF (20 mL), after the temperature was lowered to 0° C., a solution of biphenol (5.6 g, 30 mmol) in THF (15 mL) was added, stirred at this temperature for 10 minutes. Methoxymethyl chloride (6 mL, 78 mmol) was added dropwise, and the mixture was stirred for 8 h at room temperature, quenched by adding 100 mL of water, extracted with ethyl acetate (100 mL×3), the combined organic phase was washed with brine (60 mL×2), dried over MgSO4, after filtration, the solvent was removed to give a yellow oil. Purification through chromatography give 8 g (97% yield) of the product as a light yellow oil. 1HNMR (300 MHz, CDCl3) δ (ppm) 3.39 (s, 6H), 5.12 (s, 4H), 7.13 (m, 2H), 7.30–7.37 (m, 6H). Physical data of the compound was consistent with that reported in literature.

reactant | NaH | 72 mmol, 3.5 g | [H-].[Na+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | biphenol | 30 mmol, 5.6 g | C=1(C(=CC=CC1)C=1C(=CC=CC1)O)O | C12H10O2
reactant | Methoxymethyl chloride | 78 mmol, 6 mL | COCCl | C2H5ClO
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | 2,2′-Bis-(methoxymethoxy)bibenzene | 8 g, 97% yield | COCOC1=C(C=CC=C1)C1=C(C=CC=C1)OCOC | C16H18O4
